US06380378B1
To toluene (3 ml) there were added 0.578 g (2.05 mmol) of 2-cyano-1-(1,1-diethyl-3-butenyl)ethoxydichlorophosphine and 0.632 g (4.50 mmol) of 1-(trimethylsilyl)imidazole under an argon atmosphere at room temperature, and reaction was conducted for 10 minutes. After by-product chlorotrimethylsilane and toluene were removed under reduced pressure for 25 minutes at room temperature, the residual toluene and excess 1-(trimethylsilyl)imidazole were removed under reduced pressure for 2 hours at 55° C. to obtain 2-cyano-1-(1,1-diethyl-3-butenyl)ethoxybisimidazolyl phosphine as a colorless transparent oil. This was dissolved in 4.1 ml of a mixed solution of chloroform-d and chloroform, and the solution (0.5 M) was added at −3.5° C. under an argon atmosphere to 1.414 g (2.15 mmol) of N6-benzoyl-5′-O-(4,4′-dimethoxytrityl)-2′- deoxyadenosine that had been subjected to azeotropic dehydration with 5 ml of 1,4-dioxane at room temperature for one hour. Upon reaching homogeneity, the mixture was allowed to stand overnight at 4° C. for reaction to obtain the target nucleotide derivative. The 31P NMR {external standard: (CH3O)3P=140 ppm, CDCl3} was δ; 129.5, 130.3, 131.1, 134.3 ppm (measuring the 31P NMR spectrum with a 161.7 MHz NMR measuring apparatus).

reactant | 2-cyano-1-(1,1-diethyl-3-butenyl)ethoxydichlorophosphine | 2.05 mmol, 0.578 g | C(#N)CC(OP(Cl)Cl)C(CC=C)(CC)CC | C11H18Cl2NOP
reactant | 1-(trimethylsilyl)imidazole | 4.50 mmol, 0.632 g | C[Si](N1C=NC=C1)(C)C | C6H12N2Si
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 2-cyano-1-(1,1-diethyl-3-butenyl)ethoxybisimidazolyl phosphine | C(#N)CC(OP(C=1NC=CN1)C=1NC=CN1)C(CC=C)(CC)CC | C17H24N5OP
